US09371314B2
To the nitrogen bubbled mixture of 1-(4-(2-amino-5-bromopyridin-3-yl)phenyl)-3-(2-fluoro-5-methylphenyl)urea (487 mg, 1.17 mmol, 1 eq), bis(pinacolato)diboron (0.36 g, 1.2 eq), and potassium acetate (0.46 g, 4 eq) in anhydrous 1,4-dioxane (6 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.14 g, 0.15 eq) and the mixture was heated at 120° C. for one and half hours. After the reaction was cooled to room temperature, it was filtered through a celite pad and washed with ethyl acetate. The filtrate was collected, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper clear solution was decanted, concentrated, and the brown oily residue was subject to a gradient column chromatography (EtOAc-Hex 1:4 to 4:1) to yield 1-(4-(2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-3-(2-fluoro-5-methylphenyl)urea as a brown oil which solidified in vacuo in amount of 101 mg.

reactant | 1-(4-(2-amino-5-bromopyridin-3-yl)phenyl)-3-(2-fluoro-5-methylphenyl)urea | 1.17 mmol, 487 mg, 1 eq | NC1=NC=C(C=C1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)Br | C19H16BrFN4O
reactant | bis(pinacolato)diboron | 0.36 g, 1.2 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.46 g, 4 eq | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.14 g, 0.15 eq | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)-3-(2-fluoro-5-methylphenyl)urea | NC1=NC=C(C=C1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)B1OC(C(O1)(C)C)(C)C | C25H28BFN4O3
